US08431569B2
Step 7. 7-(2-Aminopyrimidin-5-yl)-1-{[(1R)-1-cyclopropyl-2,2,2-trifluoroethyl]amino}-5H-pyrido[4,3-b]indole-4-carboxamide
7-Chloro-1-{[(1R)-1-cyclopropyl-2,2,2-trifluoroethyl]amino}-5H-pyrido[4,3-b]indole-4-carboxamide (8.36 g, 21.8 mmol) and 2-aminopyrimidine-5-boronic acid pinacol ester (7.73 g, 34.9 mmol) were placed in a flask. Pd2(dba)3 (2.0 g, 2.184 mmol), tricyclohexylphosphine (1.53 g, 5.46 mmol), dioxane (437 ml) and K3PO4 (1.25 M in water, 59.2 ml, 74.0 mmol) were added and the flask purged with N2 for 15 min. The reaction mixture was heated at 100° C. for 4 h, and cooled to room temperature. The mixture was diluted with EtOAc, washed with water and brine, dried (magnesium sulfate), and concentrated. Flash chromatography gave the title compound as a white solid. 1H NMR (600 MHz, CD3SOCD3) δ 11.64 (s, 1H); 8.62 (s, 2H); 8.54 (d, 1H); 8.52 (s, 1H); 7.97 (br s, 1H); 7.95 (d, 1H); 7.53 (dd, 1H); 7.30 (br s, 1H); 7.01 (d, 1H); 6.79 (s, 2H); 4.87 (m, 1H); 1.62 (m, 1H); 0.76 (m, 1H); 0.64 (m, 1H); 0.55 (m, 1H); 0.35 (m, 1H). LRMS (APCI) calc'd for (C21H18F3N7O) [M+H]+, 442.2. found 442.1.

reactant | 7-Chloro-1-{[(1R)-1-cyclopropyl-2,2,2-trifluoroethyl]amino}-5H-pyrido[4,3-b]indole-4-carboxamide | 21.8 mmol, 8.36 g | ClC=1C=CC=2C3=C(NC2C1)C(=CN=C3N[C@@H](C(F)(F)F)C3CC3)C(=O)N | C17H14ClF3N4O
reactant | 2-aminopyrimidine-5-boronic acid pinacol ester | 34.9 mmol, 7.73 g | NC1=NC=C(C=N1)B1OC(C)(C)C(C)(C)O1 | C10H16BN3O2
reactant | tricyclohexylphosphine | 5.46 mmol, 1.53 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | K3PO4 | 74.0 mmol, 1.25 M, 59.2 ml | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | Pd2(dba)3 | 2.184 mmol, 2.0 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 437 ml | O1CCOCC1 | C4H8O2
product | 7-(2-Aminopyrimidin-5-yl)-1-{[(1R)-1-cyclopropyl-2,2,2-trifluoroethyl]amino}-5H-pyrido[4,3-b]indole-4-carboxamide | NC1=NC=C(C=N1)C=1C=CC=2C3=C(NC2C1)C(=CN=C3N[C@@H](C(F)(F)F)C3CC3)C(=O)N | C21H18F3N7O
